US06479491B1
5-Chloro-2-methoxy Benzeneboronic Acid
A solution of 2-bromo-4-chloroanisole (5.0 g, 22.6 mmol) in dry THF (60 ml) under nitrogen was cooled to −70° C. and n-butyl lithium (12.4 ml of a 2.0 M solution in hexanes, 24.8 mmol) was added. After 10 min. at −70° C. trlbutyl borate (8.5 ml, 31.4 mmol) was added and the temperature was allowed to rise to room temperature overnight. Aqueous hydrochloric acid (40 ml, 2 M) was added and the product was extracted with 2×60 ml ether. The ethereal phase was extracted with aqueous sodium hydroxide (2×40 ml, 1 M). Acidification with concentrated HCl during ice-cooling gave a precipitate that was dissolved in ether. Drying over magnesium sulfate and evaporation of the solvent gave the title compound. Yield 1.93 g, 46%.

reactant | 2-bromo-4-chloroanisole | 22.6 mmol, 5.0 g | BrC1=C(C=CC(=C1)Cl)OC | C7H6BrClO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | borate | 31.4 mmol, 8.5 ml | B([O-])([O-])[O-]
reactant | hydrochloric acid | 2 M, 40 ml | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5-Chloro-2-methoxy Benzeneboronic Acid | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
